Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
esophageal foreign body
 
Major Surgical or Invasive Procedure:
___- RIGID ESOPHAGOSCOPY WITH REMOVAL OF FOREIGN BODY 

 
History of Present Illness:
___ male who otherwise healthy presented to the ___ ED
after an EGD this morning which showed a foreign body which was
unable to be extricated. 10 days prior to presentation, patient
was consuming muscles with bread and quickly coughed and 
inhaled,
which was followed by a sharp, stabbing pain in his throat. 
Since
that time, he has been unable to eat or keep food down,
odynophagia and dysphagia. At night he at times wakes up 
coughing
and gasping, feeling as though he is unable to swallow his
saliva. Each time he would attempt to eat or drink anything, he
would have sharp pain, followed by nausea and emesis. Constant
sensation of foreign body in his esophagus. Denies fever, 
chills,
chest pain, shortness of breath. 

Patient had an  EGD performed this morning where a grey, hard
foreign body was found( likely a shellfish shell) with severe
ulceration at 20 cm from the incisors, could not get flexible 
EGD
past. Patient was told to go to the emergency room for further
imaging, a CT scan, and potential thoracic surgery consultation.
 
Past Medical History:
HTN
High Cholesterol
Depression 
 
Social History:
___
Family History:
non contributory 
 
Physical Exam:
Admission Physical Exam
Temp:97.5       HR: 68    BP:144/82       RR:16     O2 Sat:98%RA

GEN: Well appearing, no acute distress
 HEENT: NCAT, EOMI, sclera anicteric
 CV: HDS, RRR
 PULM: No signs of respiratory distress. CTAB. No crepitus in 
the
neck/ chest appreciated
 ABD: Soft, nontender, nondistended
 EXT: Warm, well-perfused, no edema, no tenderness 
 NEURO: A&Ox3, no focal neurologic deficits

Discharge physical exam

 Vitals:
    Temp: 98.3 BP: 135/76 HR: 86  RR: 18, O2 sat: 99%  Ra

GEN: Well appearing, no acute distress
 HEENT: NCAT, EOMI, sclera anicteric
 CV: HDS, RRR
 PULM: No signs of respiratory distress. CTAB. No crepitus in 
the
neck/ chest appreciated
 ABD: Soft, nontender, nondistended
 EXT: Warm, well-perfused, no edema, no tenderness 
 NEURO: A&Ox3, no focal neurologic deficits

 
Pertinent Results:
CT Chest:   
IMPRESSION:  
  
Curvilinear radiodense foreign body which is in the esophagus 
from the level 
of the thoracic inlet to the upper thoracic esophagus. The most 
inferior 
aspect of this foreign body appears to be either embedded in the 
wall of the 
esophagus or, given the more focal area of esophageal wall 
thickening and 
fatty stranding, possibly perforated through a portion of the 
esophageal wall. 
There is diffuse esophageal wall thickening from the level of 
the thoracic 
inlet to approximately 2.5 cm inferiorly to the foreign body. No 

pneumomediastinum. 

CXR: IMPRESSION:  
  
Removal of foreign body.  No radiographic finding suggesting 
pneumomediastinum. 

Barium Swallow
IMPRESSION:  
  
No evidence of esophageal perforation. 
  

 
Brief Hospital Course:
Mr. ___ is a ___ year old male who presented pm ___ 
to the  ___ Emergency 
department with a foreign body sensation for 10 days and failed 
GI attempt with EGD to remove foreign body, who was admitted for 
thoracic surgery management. He was started on IV fluids and IV 
antibiotics with broad coverage in case there was a perforation. 
The patient was taken to the operating room the same day and 
underwent a rigid esophagoscopy and foreign body removal. For 
details of the procedure, please see the surgeon's operative 
note. The patient tolerated the procedure well without 
complications and was brought to the post-anesthesia care unit 
in stable condition. In the PACU, patient had a CXR performed 
which showed no pneumomediastinum. After a brief stay, the 
patient was transferred to the thoracic surgery floor where he 
remained through the rest of the hospitalization.

Post-operatively, he did well, he remained afebrile and 
hemodynamically stable. He had a barium swallow performed which 
showed no evidence of an esophageal leak. He was advanced 
initially to a clear liquid diet and then to soft solids, which 
he tolerated well. He was started on oral antibiotics, which he 
was to continue for 7 days after discharge.  He was able out of 
bed and ambulate without assistance, void without issues, and 
pain was controlled on oral medications alone. He was deemed 
ready for discharge, and was given the appropriate discharge and 
follow-up instructions.
 
Medications on Admission:
ASA
Losartan
Propanolol
Fluoxetine
Clorthalidone
Buproprion
Atorvastatin

 
Discharge Medications:
ASA
Losartan
Propanolol
Fluoxetine
Clorthalidone
Buproprion
Atorvastatin
Augmentin 875 mg BID for 7 days
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
esophageal foreign body

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ for an 
esophageal foreign body and underwent a rigid esophagoscopy, 
where a scope was used down your throat to remove a shell you 
had accidentally swallowed. You had a barium swallow post 
operatively, to make sure you had no hole in your esophagus, 
which you did not have. You were started first on clear liquids 
and advanced to a soft solid diet. You are recovering well and 
are now ready for discharge. Please follow the instructions 
below to continue your recovery:

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Difficult or painful swallowing
-Nausea, vomiting
-Increased shortness of breath

Medication
- Resume all your home medication that you were on prior to 
being admitted to the hospital
- You will be discharged on Antibiotics, Augmentin for a total 7 
day course, please finish all of your antibiotics.

Pain
-Acetaminophen ___ mg every 6 hours for pain control

Activity
-No limitations in terms of activity, exercise
-Walk ___ times a day for ___ minutes increase to a Goal of 30 
minutes daily

Diet:
- Eat soft foods for the first few days, and advance as 
tolerated to your regular diet. Each small frequent meals.

Eat small frequent meals. If needed, if you feel as though your 
food is sitting in your chest, Sit in chair for all meals. 
Remain sitting up for ___ minutes after all meals

NO CARBONATED DRINKS

Best Wishes, 
Your ___ Thoracic Surgery team

 
Followup Instructions:
___